US04978386
2-(3-Trifluoromethylphenyl)-3-Ethylamino-5-PropyI-2-Cyclopentenone
In this example, a mixture containing 8.0 g of 2-(3-trifluoromethylphenyl)-3-amino-5-propyl-2-cyclopentenone; 3.0 g of aqueous 50 wt % sodium hydroxide; 6.4 g of benzyltriethylammonium chloride; and 5.0 ml of diethyl sulfate in 70 ml of methylene chloride was stirred at room temperature for about 1 hour and then warmed to, and stirred at reflux for about 15 to 20 minutes. The mixture was cooled to room temperature and successively washed three times with water, twice with aqueous 1N hydrochloric acid and then twice with saturated aqueous sodium bicarbonate. The washed mixture was dried over magnesium sulfate and evaporated affording an oil residue. The oil was triturated with a mixture of ethyl ether and petroleum ethers and filtered affording 3.2 g of the title compound as a solid, m.p. 120°-120.5° C.

reactant | 2-(3-trifluoromethylphenyl)-3-amino-5-propyl-2-cyclopentenone | 8.0 g | FC(C=1C=C(C=CC1)C=1C(C(CC1N)CCC)=O)(F)F | C15H16F3NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | diethyl sulfate | 5.0 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
catalyst | benzyltriethylammonium chloride | 6.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Trifluoromethylphenyl)-3-Ethylamino-5-PropyI-2-Cyclopentenone | 3.2 g | FC(C=1C=C(C=CC1)C=1C(C(CC1NCC)CCC)=O)(F)F | C17H20F3NO
